US20010027196A1
2-Amino-4-furan-2-yl-6-(2-phenoxy-ethylamino)-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile and 2-phenoxyethylamine in DME. ES-MS m/e (%): 322 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | 2-phenoxyethylamine | O(C1=CC=CC=C1)CCN | C8H11NO
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-furan-2-yl-6-(2-phenoxy-ethylamino)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)NCCOC1=CC=CC=C1 | C17H15N5O2
